US05208228
17-Ethyl-1-hydroxy-12-[2-(4"-formamido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
The compound 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone(30 mg) is mixed with methyl formate (0.5 ml) and is stirred at 0° C. for 1 hr. The reaction mixture is allowed to warm to room temperature and then is stirred overnight. The excess methylformate is removed with nitrogen flow and the crude mixture is purified by preparative tlc on silica gel to give the title compound.

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 30 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OC(C)C)C)C)=O | C45H74N2O10
reactant | methyl formate | 0.5 ml | C(=O)OC | C2H4O2
product | 17-Ethyl-1-hydroxy-12-[2-(4"-formamido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC=O)OC(C)C)C)C)=O | C46H74N2O11
